US08536183B2
3-methyl-4-{[(2S)-2-methyl-1-piperazinyl]sulfonyl}benzonitrile
A solution of 1,1-dimethylethyl (3S)-4-[(4-cyano-2-methylphenyl)sulfonyl]-3-methyl-1-piperazinecarboxylate (may be prepared as described in Description 16) (3.71 g, 9.78 mmol) and TFA (5.00 ml, 64.9 mmol) in dry DCM (15 ml) was stirred at rt for 1 h, then concentrated under vacuum, azeotroping with toluene (25 ml). The residue was dissolved in MeOH (20 ml) and added to an SCX-2 cartridge (50 g), washing with MeOH. The product was eluted with 2M NH3 in MeOH; concentration under vacuum gave the title compound as a white solid (2.50 g).

reactant | 1,1-dimethylethyl (3S)-4-[(4-cyano-2-methylphenyl)sulfonyl]-3-methyl-1-piperazinecarboxylate | 9.78 mmol, 3.71 g | C(#N)C1=CC(=C(C=C1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C)C | C18H25N3O4S
reactant | TFA | 64.9 mmol, 5.00 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-{[(2S)-2-methyl-1-piperazinyl]sulfonyl}benzonitrile | 2.50 g | CC=1C=C(C#N)C=CC1S(=O)(=O)N1[C@H](CNCC1)C | C13H17N3O2S
